Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Keflex / Demerol / Codeine / Tape / Morphine
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
___ line placement

 
History of Present Illness:
Pt is a ___ y.o female with h.o recurrent idiopathic 
pancreatitis, h.o hemolytic anemia s/p splenectomy, asthma, 
hypothyroidism, h.o RUE DVT, no longer on coumadin who presents 
with persistent abdominal pain, inability to tolerate enough PO, 
and weight loss. Pt reports that since discharge her abd pain 
has been ___ epigastric band like, squeezing and achy that 
can increase up to ___ after meals. Pt reports some nausea and 
1 episode of non-bloody, non-bilious vomiting. She denies 
constipation, diarrhea, melena, brbpr, dysuria, fever, chills. 
She states that she is only able to tolerate <1meal per day 
because of decreased appetite and that she has lost ___ over 
the last few weeks. She has been eating 'ding dongs' and candy.  
 
.
In addition, she denies fever, chills, headache, dizziness, LH, 
ST/URI/cough, CP, SOB, palp, paresthesias, weakness, rash, 
heat/cold intolerance. Pt presented to GI clinic today and was 
advised to present for admission to start TPN.
 
Past Medical History:
1) Recurrent pancreatitis: Started after partial pancreatectomy 
in ___.  Then no recurrent until ___.  Was hospitalized in 
___ for pancreatitis, underwent an ERCP with sphincterotomy and 
stent placement in panc duct.  Further episodes in ___ 
with same ERCP again and stent extension.  In ___, another bout 
of acute pancreatitis, but ERCP this time showed no duct 
stenosis. ?in the past thought to be due to autoimmune, but did 
not improve with tx. Last admit, markers not suggestive.
2) Hemolytic anemia: reaction to Keflex, treated with 
splenectomy in ___.
3) s/p ccy in ___
4) s/p appy in ___
5) Asthma: mild intermittent, uses no meds at baseline
6) hypothyroidism
7) s/p tubal ligation
8) Depression
9) Right UE DVT in the setting of central line, on coumadin 
since ___, no longer on coumadin.
 
Social History:
___
Family History:
Mother with diabetes, osteoporosis, hypertension, 
hypothyroidism, chronic pain.
Others with Crohns, diverticulitis, lung ca
 
Physical Exam:
gen-well appearing, walking around her room, NAD
vitals- 
heent-nc/at, eomi, anicteric, MMM, no oP lesions
neck-supple, no lad, no JVD
chest-b/l ae no w/c/r
heart-s1s2 rrr no m/r/g
abd-+bs, +well healed large abd scar from prior splenectomy, 
+TTP, epigastric area, LUQ, neg ___ sign, no guarding or 
rebound
ext-no c/c/e 2+pulses
neuro-aaox3, CN2-12 intact, motor ___ x4, sensation equal and 
intact to LT, no tremor
psych-calm, appropriate, no SI
 
Pertinent Results:
.
MRCP ___
IMPRESSION: 
1. Mild intrahepatic and pancreatic ductal dilatation, similar 
to CT 
appearance from ___, however, increased from MRCP ___. Though the changing appearance of biliary system is 
unusual, the dilation of the pancreatic and biliary systems 
without a mass lesion raises the possibility of an ampullary 
stricture. 
2. Small bowel and pancreatic head malrotation. Stable changes 
status post 
distal pancreatectomy. Prompt emptying of the pancreatic duct 
following 
secretin administration. 
.
ca ___ last admit-normal
 .
___ 05:38AM BLOOD WBC-9.6 RBC-3.52* Hgb-10.5* Hct-32.0* 
MCV-91 MCH-29.7 MCHC-32.7 RDW-13.4 Plt ___
___ 08:30AM BLOOD WBC-9.0 RBC-3.57* Hgb-11.0* Hct-32.6* 
MCV-91 MCH-30.8 MCHC-33.8 RDW-13.4 Plt ___
___ 01:10AM BLOOD WBC-8.4 RBC-3.41* Hgb-10.6* Hct-30.9* 
MCV-91 MCH-31.0 MCHC-34.2 RDW-13.7 Plt ___
___ 05:25AM BLOOD WBC-8.8 RBC-3.30* Hgb-10.3* Hct-29.7* 
MCV-90 MCH-31.4 MCHC-34.8 RDW-13.3 Plt ___
___ 09:00PM BLOOD WBC-9.3 RBC-3.68* Hgb-10.9* Hct-33.1* 
MCV-90 MCH-29.7 MCHC-33.0 RDW-12.4 Plt ___
___ 05:38AM BLOOD Plt ___
___ 08:30AM BLOOD Plt ___
___ 05:25AM BLOOD Plt ___
___ 09:00PM BLOOD Plt ___
___ 05:38AM BLOOD Glucose-111* UreaN-15 Creat-0.7 Na-138 
K-4.6 Cl-104 HCO3-28 AnGap-11
___ 06:00AM BLOOD Glucose-107* UreaN-13 Creat-0.7 Na-138 
K-4.4 Cl-103 HCO3-30 AnGap-9
___ 01:10AM BLOOD Glucose-120* UreaN-8 Creat-0.5 Na-139 
K-4.1 Cl-103 HCO3-30 AnGap-10
___ 05:25AM BLOOD Glucose-99 UreaN-5* Creat-0.6 Na-141 
K-4.2 Cl-109* HCO3-29 AnGap-7*
___ 09:00PM BLOOD Glucose-128* UreaN-6 Creat-0.6 Na-138 
K-4.1 Cl-104 HCO3-30 AnGap-8
___ 09:00PM BLOOD ALT-12 AST-21 LD(LDH)-123 AlkPhos-92 
TotBili-0.2
___ 09:00PM BLOOD Lipase-59
___ 05:38AM BLOOD Calcium-9.1 Phos-3.7 Mg-2.3
___ 06:00AM BLOOD Calcium-9.0 Phos-4.3 Mg-2.2
___ 01:10AM BLOOD Calcium-8.9 Phos-4.1 Mg-2.1
___ 05:25AM BLOOD Calcium-8.5 Phos-3.6 Mg-1.9
___ 09:00PM BLOOD Albumin-4.1 Calcium-9.1 Phos-3.5 Mg-2.0
___ 05:38AM BLOOD Triglyc-299*
___ 05:25AM BLOOD Triglyc-257*
___ 05:25AM BLOOD TSH-7.1*
___ 12:35PM BLOOD T4, FREE, DIRECT DIALYSIS-PND
.
___ HISTORY: PICC placement. 
FINDINGS: The tip of the PICC line now lies within the lower 
portion of the SVC. No acute cardiopulmonary disease. 
.
___ CXR:SINGLE AP PORTABLE VIEW OF THE CHEST 
  
REASON FOR EXAM: Assess line.  
Left PICC tip is in the right atrium, should be withdrawn 
approximately 4 cm for a standard positioning. Cardiomediastinal 
contours are normal. The lungs are clear. There is no 
pneumothorax or pleural effusion. 
The study and the report were reviewed by the staff radiologist. 


  

 
Brief Hospital Course:
Assessment/Plan:  
Pt is a ___ y.o female with h.o idiopathic pancreatitis, s/p 
splenectomy for hemolytic anemia, hypothyroidism, h.o RUE DVT 
after CVL, depression who presents with continued abdominal 
pain, weight loss, and inability to tolerate PO. 
.  
#chronic pancreatitis-Pt with h.o partial pancreatectomy for 
pancreatitic cyst in the past with post procedure pancreatitis. 
Work up for etiology has not revealed a cause. At one time, 
there was consideration of autoimmune etiology and treatment for 
this, but pt symptoms did not improve. ___ 1:40 last 
admit/immunoglobulins normal. Pt reports continued abd pain with 
same quality and character as last admission, but does report 
only able to tolerate <1meal per day with some snacks due to 
decreased appetite. She reported ___ weight loss over last 
few weeks. Pain was stable and unchanged. LFTs/lipase normal. 
Given pt's symptoms at home, Pt's gastroenterologist Dr. ___ 
___ for the patient to be admitted to the hospital for the 
initiation of TPN. Pt was continued on her home regimen of PO 
dilaudid ___ Q4hrs and fentanyl patch 100mcg every 72hrs for 
pain control. She was given compazine for nausea prn. PICC line 
was placed upon admission, however single lumen was placed 
instead of a double lumen and this was then changed on ___. 
CXR confirms appropriate placement. Pt started TPN on ___. 
Nutrition was consulted who provided the patient's daily TPN 
recommendations. Pt tolerated TPN and cycling this admission. 
She will have weekly CBC, chem 10, and LFTs followed by ___ 
___, RD and Dr. ___ ___ tele 
___ upon discharge:
volume(ml/d) Amino Acid(g/d) Dextrose(g/d) Fat(g/d) 
1675            70              280         35
Trace Elements will be added daily 
Standard Adult Multivitamins 
NaCL NaAc NaPO4 KCl KAc KPO4 MgS04 CaGluc 
70    0    20   40  0     0   10      9 
___ will continue to follow up with her gastroenterologist Dr. 
___ further work up and treatment of her pancreatitis. She 
should discuss the need for pancreatic enzyme supplementation 
with her GI doctor as well.
Cycle over (hrs.) Start at Decrease rate to (ml/h) at Stop at 
12 1800 0 0600 0600 
.  
#hypothyroidism- continued home regimen levothyroxine 150mcg 
daily. TFT's checked last admit and adjusting medication was 
deferred to the outpatient setting when not hospitalized. TSH 7 
this admission. Free T4 still pending at time of discharge. Pt 
admitted to not taking her synthroid at home in a few weeks. She 
was advised to take this medication daily and follow up with her 
PCP for adjustment as needed.  
.  
#normocytic anemia-baseline ___. Last iron studies showed 
anemia of chronic disease. Pt is S/p splenectomy for hemolytic 
anemia in the past. HCT trended and remained stable. Stools were 
guaiaced. Pt can discuss with her PCP the need for outpatient 
colonoscopy.  
.  
#thrombocytosis-This was thought to be reactive. Pt did not have 
fever, leukocytosis or localizing symptoms to suggest infection. 
Resolved.  
.  
#depression-no SI, pt continued on  outpatient regimen of celexa 
60mg daily  
.  
#h.o RUE DVT-related to CVL. Finished tx course in ___ per 
report.  
.  
#FEN-regular diet, nutrition consult. TPN 
.  
#ppx-hep sc, bowel reg  
.  
#access-PIV, PICC.   
.  
#code-full  
.  
.  

 
Medications on Admission:
celexa 60mg PO daily
Hydromorphone 4 mg  PO Q4hr PRN
Levothyroxine 150 mcg PO daily
Docusate Sodium 100 mg  PO BID 
Senna 8.6 mg Two Tablet PO BID
fentanyl patch 100mcg/hr Q3 days 
 

 
Discharge Medications:
1. levothyroxine 150 mcg Tablet Sig: One (1) Tablet PO once a 
day.  
2. fentanyl 100 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).  
3. citalopram 20 mg Tablet Sig: Three (3) Tablet PO once a day.  

4. senna 8.6 mg Tablet Sig: One (1) Tablet PO twice a day.  
5. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.  
6. hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q4H (every 4 
hours) as needed for severe pain.  
7. prochlorperazine maleate 5 mg Tablet Sig: One (1) Tablet PO 
Q6H (every 6 hours) as needed for nausea.  
8. Outpatient Lab Work
weekly CBC, chem 10, lfts. 
Please fax results ___, RD and Dr. ___ 
___ tele ___.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Major:
chronic idiopathic pancreatitis
weight loss
nausea
 
minor: hypothyroidism, depression, anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for the initiation of TPN due to poor food 
intake at home related to your chronic pancreatitis. You had a 
PICC line placed without complication. You were started on TPN 
without  complication. You will go home on TPN and an infusion 
company has been set up. You should have your labs monitored 
weekly and Dr. ___ decide the plan for further care and 
duration of your TPN as well as any further work up for your 
pancreatitis.
.
You have a mild anemia. Please discuss with your PCP whether you 
may need a colonoscopy.
.
Medication changes:
none.
.
Please follow up with the appointments below and take all of 
your medications as prescribed.
 
Followup Instructions:
___